US04123529
(c) 2-Chloromethyl-4-phenylthiazole.
Thionyl chloride (6.25 g, 0.052 mole) was added dropwise to a stirred solution of 2-hydroxymethyl-4-phenylthiazole (9.55 g; 0.05 mole) and dry pyridine (4.0 g; 0.051 mole) in dry benzene (60 ml) held at room temperature. The mixture was stirred and heated to boiling for 1 hour. The cooled reaction mixture was then shaken with 2 × 70 ml H2O and dried over anhydrous MgSO4. The solvent was removed under vacuum and the remaining red oil extracted with 40°-60° C. petroleum ether (100 ml), discarding a small tarry residue. The extract was treated with decolourising charcoal, filtered and evaporated, leaving a yellow-red oil that crystallised on refrigeration.

reactant | Thionyl chloride | 0.052 mole, 6.25 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-phenylthiazole | 0.05 mole, 9.55 g | OCC=1SC=C(N1)C1=CC=CC=C1 | C10H9NOS
reactant | pyridine | 0.051 mole, 4.0 g | N1=CC=CC=C1 | C5H5N
reactant | H2O | 70 ml | O | H2O
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 2-Chloromethyl-4-phenylthiazole | ClCC=1SC=C(N1)C1=CC=CC=C1 | C10H8ClNS
